US04897414
5-ethylthio-pyrrolidin-2-one
A mixture of 2.8 g of 5-hydroxy-pyrrolidin-2-one in 25 cm3 of ethylmercaptan is made to react for 4 hours at 20° C. with 1.4 g of Amberlite IR 120 H. The mixture is diluted with ethyl ether, the solvent is distilled off, and 2.6 g of the expected product is obtained, m.p. 65°-68° C. after crystallizing from isopropyl ether, m.p. 68°-70° C.

reactant | 5-hydroxy-pyrrolidin-2-one | 2.8 g | OC1CCC(N1)=O | C4H7NO2
reactant | ethylmercaptan | 25 cm3 | C(C)S | C2H6S
solvent | ethyl ether | C(C)OCC | C4H10O
product | 5-ethylthio-pyrrolidin-2-one | 2.6 g | C(C)SC1CCC(N1)=O | C6H11NOS
